US04032322
In the manner of Example VI, 9.1 g of 5-amino-3-tert-butyl- 4-cyanoisothiazole and 9.8 g of N-(dichloromethylene)-N,N-dimethylammonium chloride were allowed to react in 50 ml of dichloromethane. The volatile materials were evaporated under reduced pressure. The residue was recrystallized from hexane to give 9.2 g of N'-(3-tert-butyl-4 -cyano-5-isothiazolyl)-N,N-dimethylchloroformamidine, mp 94°-100°. The ir and nmr spectra were consistent with the assigned structures.

reactant | 5-amino-3-tert-butyl- 4-cyanoisothiazole | 9.1 g | NC1=C(C(=NS1)C(C)(C)C)C#N | C8H11N3S
reactant | N-(dichloromethylene)-N,N-dimethylammonium chloride | 9.8 g | [Cl-].ClC(=[N+](C)C)Cl
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N'-(3-tert-butyl-4 -cyano-5-isothiazolyl)-N,N-dimethylchloroformamidine | 9.2 g | C(C)(C)(C)C1=NSC(=C1C#N)N=C(N(C)C)Cl | C11H15ClN4S
